US07875636B2
To a −78° C. cooled solution of (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methylene]propane-2-sulfinamide (25.3 g, 82 mmol) in THF (1000 mL) was added allylmagnesium chloride (2.0M in THF, 59.5 mL, 119 mmol). The Grignard reagent was added at a rate such that the internal reaction temperature was never warmer than −70° C. After complete addition of the Grignard reagent, the mixture was quenched with a saturated ammonium chloride solution and allowed to warm to room temperature. The mixture was diluted with water and EtOAc, and the layers were separated. The aqueous layer was extracted once with EtOAc. The combined organic layer was dried over MgSO4, filtered, and concentrated to give a crude oil. 1H-NMR indicated a ˜3:1 diastereomeric ratio of products that were separated by silica gel chromatography (10-100% EtOAc/hexanes) to give 2-methyl-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]but-3-en-1-yl}propane-2-sulfinamide (19.4 g, 67%) as a yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.30 (d, J=2.7 Hz, 1H), 7.07-7.25 (m, 2H), 5.64-5.74 (m, 1H), 5.01-5.30 (m, 2H), 4.60 (d, J=7.3 Hz, 1H), 4.46 (q, J=7.0 Hz, 1H), 4.38 (q, J=7.9 Hz, 2H), 2.56-2.61 (m, 2H), 1.25 (s, 9H); MS (Electrospray): m/z 350.8 (M. A solution of 2-methyl-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]but-3-en-1-yl}propane-2-sulfinamide (11.6 g, 33.0 mmol) in methanol (300 mL) and CH2Cl2 (300 mL) was cooled to −78° C. Ozone was bubbled into the reaction mixture until the solution turned pale blue (30 minutes). The ozone source was then removed and NaBH4 (6.24 g, 165 mmol) was added. The reaction mixture was allowed to warm to room temperature overnight. Water (200 mL) was added and the layers were separated. The aqueous layer was extracted with CH2Cl2 (2×150 mL) and the combined organic was dried over MgSO4, concentrated and purified by silica gel chromatography (40-100% EtOAc/hexanes) to give N-{(1R)-3-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridine-2-yl]propyl}-2-methylpropane-2-sulfinamide (8.9 g, 78%) as a brown solid; 1H NMR (400 MHz, CDCl3) δ 8.30 (d, J=2.9 Hz, 1H), 7.11-7.34 (m, 2H), 4.57-4.69 (m, 2H), 4.39 (q, J=7.9 Hz, 2H), 3.67-3.80 (m, 2H), 2.46 (t, J=5.3 Hz, 1H), 2.04 (q, J=6.0 Hz, 2H), 1.26 (s, 9H); MS (Electrospray): m/z 354.8 (M+H). To a solution of N-{(1R)-3-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridine-2-yl]propyl}-2-methylpropane-2-sulfinamide (1 g, 2.8 mmol) in MeOH (20 mL) was added HCl in ether (2M, 3.1 mL, 6.2 mmol). After stirring for 2 hours at room temperature, the mixture was concentrated to give a yellow oil. The yellow oil was foamed under high vacuum and triturated with ethyl ether (100 mL) to give (3R)-3-amino-3-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]propan-1-ol as the bis-hydrochloride salt; MS (Electrospray): m/z 250.9 (M+H). To a suspension of (3R)-3-amino-3-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]propan-1-ol bis-HCl (0.91 g, 2.8 mmol), 4-cyclopropylphenylacetic acid (0.50 g, 2.8 mmol), EDC (0.65 g, 3.4 mmol), and 1-hydroxy-7-azabenzotriazole (0.46 g, 3.4 mmol) in DCM (40 mL) was added diisopropylethylamine (2.85 mL, 16.3 mmol). After stirring overnight at room temperature, the mixture was washed with water (2×50 mL). The organic layer was dried over MgSO4, filtered, concentrated and purified by silica gel chromatography (20-100% EtOAc/hexanes) to give 2-(4-cyclopropylphenyl)-N-{(1R)-3-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]propyl}acetamide (0.87 g, 76%) as a colorless, waxy solid; 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=2.8 Hz, 1H), 7.04-7.26 (m, 6H), 5.18-5.24 (m, 1H), 4.39 (q, J=7.9 Hz, 2H), 4.03-4.06 (m, 1H), 3.50-3.65 (m, 4H), 1.86-2.01 (m, 2H), 1.52-1.60 (m, 1H), 0.94-0.99 (m, 2H), 0.67-0.71 (m, 2H); MS (Electrospray): m/z 408.9 (M+H).

reactant | 2-methyl-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]but-3-en-1-yl}propane-2-sulfinamide | 33.0 mmol, 11.6 g | CC(C)(C)S(=O)N[C@H](CC=C)C1=NC=C(C=C1)OCC(F)(F)F | C15H21F3N2O2S
reactant | NaBH4 | 165 mmol, 6.24 g | [BH4-].[Na+]
reactant | Water | 200 mL | O | H2O
solvent | methanol | 300 mL | CO | CH4O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-{(1R)-3-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridine-2-yl]propyl}-2-methylpropane-2-sulfinamide | 8.9 g, 78% | OCC[C@H](C1=NC=C(C=C1)OCC(F)(F)F)NS(=O)C(C)(C)C | C14H21F3N2O3S
